US03976771
A solution of chloroacetylglycineanilide (10.0 g; 0.0443 mole) and diethylamine (9.7 g; 0.133 mole) in benzene (125 ml) was heated under reflux for 5 hours. The solution was cooled and diluted with ether (125 ml) whereby a crystalline mixture of diethylamine hydrochloride and N,N-diethylglycylglycineanilide (as base) was obtained. The mixture was shaken with cold water (2 × 100 ml) and the crystalline residue was recrystallized from water-isopropanol. The desired compound melted at 162°-164°C. Yield: 2.6 g (22.3 %).

reactant | chloroacetylglycineanilide | 0.0443 mole, 10.0 g | ClCC(=O)NCC(=O)NC1=CC=CC=C1 | C10H11ClN2O2
reactant | diethylamine | 0.133 mole, 9.7 g | C(C)NCC | C4H11N
reactant | diethylamine hydrochloride | Cl.C(C)NCC
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 125 ml | CCOCC | C4H10O
product | N,N-diethylglycylglycineanilide | C(C)N(CC(=O)NCC(=O)NC1=CC=CC=C1)CC | C14H21N3O2
